US04234588
Equimolar amounts of 2-methylthio-5-[1-(3-pyridyl)ethyl]-4-pyrimidone and 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine in pyridine are boiled under reflux for 48 hours and evaporated to dryness. The residue is purified to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(1-(3-pyridyl)ethyl)-4-pyrimidone.

reactant | 2-methylthio-5-[1-(3-pyridyl)ethyl]-4-pyrimidone | CSC1=NC=C(C(N1)=O)C(C)C=1C=NC=CC1 | C12H13N3OS
reactant | 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(1-(3-pyridyl)ethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)C(C)C=1C=NC=CC1 | C21H27N5O2S
